US06191127B1
B) 2,2-Dimethyl-1,4-benzoxazin-3-one
3 g of 2-aminophenol is mixed in 23 ml of toluene with 1.8 g of sodium hydride with the addition of 50 mg of TEBA (triethylbenzylammonium chloride), and 4.4 ml of 2-bromo-2-methylpropionic acid ethyl ester is added drop by drop at ice bath temperature. After 2 hours at room temperature, it is poured onto ice water, extracted with ethyl acetate, washed with brine, the organic phase is dried with magnesium sulfate and concentrated by evaporation. After recrystallization from isopropyl ether, 278 mg of crystals results.

reactant | 2-aminophenol | 3 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 2-bromo-2-methylpropionic acid ethyl ester | 4.4 ml | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
solvent | toluene | 23 ml | C1(=CC=CC=C1)C | C7H8
catalyst | TEBA | 50 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2,2-Dimethyl-1,4-benzoxazin-3-one | CC1(OC2=C(NC1=O)C=CC=C2)C | C10H11NO2
